US08003649B2
A mixture of 1-[(4-methoxyphenyl)-phenylmethyl]piperazine and 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by General Synthetic Method 3. The crude product was purified by hplc using a Waters XTerra C18 column (5μ silica, 19 mm diameter, 100 mm length) eluted with decreasingly polar mixtures of water (containing 0.1% aqueous ammonia) and acetonitrile as eluents to give 6-[4-[(4-methoxyphenyl)-phenylmethyl]piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine.

reactant | 1-[(4-methoxyphenyl)-phenylmethyl]piperazine | COC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=CC=C1 | C18H22N2O
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
product | 6-[4-[(4-methoxyphenyl)-phenylmethyl]piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | COC1=CC=C(C=C1)C(N1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)C2=CC=CC=C2 | C24H23F3N6O
